US07855292B2
D. (2R,3R)-3-(tert-Butyl-dimethyl-silyloxy)-3-(4-chloro-phenyl)-2-methyl-propionic acid
A solution of (2R,3R)-3-(4-chloro-phenyl)-3-hydroxy-2-methyl-propionic acid (0.76 g, 3.5 mmol) in DCM (20 mL) was cooled to 0° C. and treated with 2,6-lutidine (1.24 mL, 10.6 mmol) and tert-butyldimethylsilyl trifluoromethanesulfonate (1.9 mL, 8.27 mmol). The reaction solution was stirred at 0° C. for 30 min then allowed to warm to rt and stir 1 h. The reaction was quenched with 1 M HCl and the mixture was extracted with DCM (3×). The combined organic layers were dried (Na2SO4) and concentrated to give the crude bis-silylated ester. The silyl ester was stirred in MeOH (10 mL) at rt and treated with 5% aq. K2CO3 (5 mL). The mixture was stirred 3 h, then was concentrated, diluted with 1 N HCl, and extracted with DCM (4×). The combined organic layers were dried (Na2SO4) and concentrated to give the crude acid, which was used without further purification (1.06 g, 91%). 1H NMR (400 MHz, CDCl3): 7.32-7.27 (m, 2H), 7.27-7.22 (m, 2H), 5.01 (d, J=5.3, 1H), 2.70 (dq, J=7.2, 5.6, 1H), 1.11 (d, J=6.8, 3H), 0.88 (s, 9H), 0.03 (s, 3H), −0.18 (s, 3H).

reactant | (2R,3R)-3-(4-chloro-phenyl)-3-hydroxy-2-methyl-propionic acid | 3.5 mmol, 0.76 g | ClC1=CC=C(C=C1)[C@@H]([C@H](C(=O)O)C)O | C10H11ClO3
reactant | 2,6-lutidine | 10.6 mmol, 1.24 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 8.27 mmol, 1.9 mL | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | K2CO3 | 5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | (2R,3R)-3-(tert-Butyl-dimethyl-silyloxy)-3-(4-chloro-phenyl)-2-methyl-propionic acid | C(C)(C)(C)[Si](O[C@H]([C@H](C(=O)O)C)C1=CC=C(C=C1)Cl)(C)C | C16H25ClO3Si
